US08877754B2
N-Ethyl-2-[4-(2-isopropylamino-pyrimidin-5-ylethynyl)-phenyl]-propionamide
To 9.3 mg (0.16 mmol) isopropylamine in 0.5 mL DMSO are added 31 mg (0.10 mmol) 2-[4-(2-chloro-pyrimidin-5-ylethynyl)-phenyl]-N-ethyl-propionamide (XVIII.1) in 1 mL DMSO, followed by 254 (16 mmol) DIPEA. The mixture is stirred at rt for 12 h. After that time, the mixture is directly purified by HPLC (preparative column: Sunfire; eluent A: water+0.1% TFA, eluent B: MeOH) to yield the desired product.

reactant | isopropylamine | 0.16 mmol, 9.3 mg | C(C)(C)N | C3H9N
reactant | 2-[4-(2-chloro-pyrimidin-5-ylethynyl)-phenyl]-N-ethyl-propionamide | 0.10 mmol, 31 mg | ClC1=NC=C(C=N1)C#CC1=CC=C(C=C1)C(C(=O)NCC)C | C17H16ClN3O
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-Ethyl-2-[4-(2-isopropylamino-pyrimidin-5-ylethynyl)-phenyl]-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)C#CC=1C=NC(=NC1)NC(C)C)=O | C20H24N4O
